Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Tachycardia, irregular heart rate
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is an ___ w/ h/o ESRD on HD, Atrial fibrillation on 
coumadin, systolic CHF, PVD, hypothyroidism, and anemia who 
presented from HD unit with hypotension and tachycardia.  
Unable to obtain history from patient given his lethargy and 
difficulty arousing the patient. History is from ED 
documetation. Patient went to HD for regular sesssion. 
Approximately half of the patient's HD session was completed 
when his BP dropped, and he developed tachycardia. The patient 
was BIBA to ___ ED. Of note, in the ambulance, the patient 
noted that his breathing felt difficult, so oxygen via NC was 
increased from 2L to 3L.  
In the ED initial vitals were: 0 97.2 96 162/71 24 98% 3L Nasal 
Cannula  
- Labs were significant for K 5.5, HCT 32.4 w/ MCV 107 plt 107, 
INR 2.1  
- Patient was given 20mg PO propranolol and 500cc NS IV.  
- Patient PCP evaluated the patient in the ED who wanted to 
admit patient given that he was still tachycardic in the ED. 
With plan to d/c the patient after HD ___.  
Vitals prior to transfer were: 0 97.6 61 122/95 24 91% RA  
 
On the floor, the patient is lethargic in NAD, difficult to 
arouse with sternal rub but eventually able to state his name 
and that he was in ___ and that the month was ___.  
 
Review of Systems: Unable to obtain given patient's mental 
status.
 
Past Medical History:
- ESRD (multifactorial ___ HTN and obstructive nephropathy). On 
dialysis since ___. Has LUE AVF.  
- Afib, on Coumadin  
- HTN  
- CHF (outpatient TTE ___ with LVEF ___ and subsequent  
recovery with EF 48% on office study ___  
- Gout  
- PVD  
- Hypothyrodism  
- Cricopharyngeal dysphagia ___ neck fracture  
- Sleep apnea not on home CPAP  
- Anemia of chronic disease ___ renal dysfunction  
- NIDDM, resolved with weight loss, A1C<5% in ___  
- H/O autonomic dysfunction, remitted (no longer on midodrine 
and fludrocortisone). Persistent volume-sensitive BP regulation. 

 
Social History:
___
Family History:
Significant for HTN  
 
Physical Exam:
Admission Physical: (performed overnight)
========================
Vitals - T: 98.2 BP: 116/62 HR: 50 RR: 20 02 sat: 93% on 2L via 
NC  
GENERAL: Lethargic in NAD, difficult to arouse with sternal rub 
but eventually able to state his name  
___: AT/NC, Pupils were round bilaterally though patient would 
fight when trying to open to assess with flashlight, anicteric 
sclera. MMM  
NECK: No appreciated JVD  
CARDIAC: Irregularly irregular, S1/S2, no appreciated murmurs, 
gallops, or rubs  
LUNG: Nml WOB w/ no accessory muscle use, breathing through 
mouth. Lungs CTAB anteriorly without wheezing or crackles 
appreciated.  
ABDOMEN: Overweight. Nondistended, +BS, nontender in all 
quadrants, no rebound/guarding  
EXTREMITIES: moving all extremities well. Trace edema. Right 
foot felt cooler to touch than the left foot.  
PULSES: 1+ DPs bilaterally  
NEURO: No facial droop appreciated. Pupils round and 
symmetrical, when trying to assess pupillary reflex to light, 
patient would fight the exam. Withdraws UE to pain b/l. With 
sternal rub, the patient would move UE in response to noxious 
stimuli. Per RN report, patient was able to move from the 
stretcher to hospital bed. Oriented to self. Believes that he is 
in ___ and that the month is ___.

Discharge Physical:
====================
Vitals: 97.9 120/60s ___ 18 96%RA 
General: Sleepy but arousable, oriented x3 and appropriate  
___: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, no LAD 
Lungs: Decreased air movement throughout without rhonchi or 
wheezes 
CV: Irregularly irregular 
Abdomen: soft, non-tender, non-distended, normoactive bowel 
sounds
Ext: Warm, well perfused, 1+ edema to midcalf, poor DP pulses no 
rashes noted 
Neuro: Sleepy, oriented x3, appropriate, full strength in 
plantar and dorsiflexion bilaterally
 
Pertinent Results:
Admission Labs:
=================
___ 04:02PM BLOOD WBC-6.9 RBC-3.03* Hgb-10.2* Hct-32.4* 
MCV-107* MCH-33.5* MCHC-31.3 RDW-13.6 Plt ___
___ 04:02PM BLOOD Neuts-66.5 Lymphs-17.6* Monos-11.7* 
Eos-2.8 Baso-1.3
___ 04:02PM BLOOD ___
___ 04:02PM BLOOD Glucose-104* UreaN-39* Creat-5.6*# Na-141 
K-5.5* Cl-103 HCO3-26 AnGap-18
___ 03:40AM BLOOD Type-ART pO2-119* pCO2-63* pH-7.29* 
calTCO2-32* Base XS-1

Discharge Labs:
===================
___ 07:55AM BLOOD WBC-5.8 RBC-2.90* Hgb-9.8* Hct-31.0* 
MCV-107* MCH-33.7* MCHC-31.5 RDW-13.5 Plt Ct-99*
___ 07:55AM BLOOD ___ PTT-43.3* ___
___ 07:55AM BLOOD Glucose-83 UreaN-46* Creat-6.7*# Na-143 
K-5.1 Cl-104 HCO3-30 AnGap-14
___ 07:55AM BLOOD Albumin-3.6 Calcium-9.6 Phos-4.7* Mg-2.4

Imaging:
===========
CXR ___: No significant interval change over multiple priors 
with 
moderate-to-large right effusion with associated atelectasis.  
Left basilar opacity potentially technical, although underlying 
effusion or consolidation is also possible. 

CT Head w/o contrast ___: 1.  No acute intracranial 
abnormality. 
2.  Mild global atrophy with disproportionate ventriculomegaly, 
representing either preferential central component or 
communicating hydrocephalus. 
 
Brief Hospital Course:
 ___ with history of afib/flutter on coumadin, ESRD on HD, 
systolic CHF and anemia who presented from HD with hypotension 
and tachycardia.

# Tachycardia: Chronic atrial fibrillation intermittently 
experiencing episodes of flutter or reentrant intraatrial 
tachycardia which has been poorly controlled recently with 
frequent episodes of tachycardia at home and dialysis. Suspect 
that patient's tachycardia was worsened by dialysis ___ leading 
to hypotension. Tachycardia ultimately improved with propranolol 
20mg ___ in ED accompanied by home propranolol in AM of ___. 
Patient without signs or symptoms of infection causing 
tachycardia and hypotension at dialysis. Given ongoing 
difficulty with controlling patient's tachyarrhythmia, patient 
provided with prn propranolol ___ 20mg to take when developing 
tachycardia to prevent unstable tachycardia. Patient to 
follow-up with Dr. ___ as previously scheduled to continue to 
discuss next steps related to tachyarrhythmia. At this time, 
given patient's multiple comorbidities, patient was not felt to 
be good candidate for EP. 
 
# Hyperkalemia: Mild elevation to 5.5 on admission likely 
related to incomplete dialysis session without EKG changes. 
Improved to 5 prior to dialysis. 
 
# ESRD on HD: Patient on ___ schedule but only received 
partial session on day of admission and was thus dialyzed on 
___ with good effect and no further episodes of tachycardia or 
hypotension. Patient will complete regular dialysis session on 
___ as scheduled. 
  
# Systolic HF: Known systolic CHF at baseline with trace edema 
and ongoing chronic right pleural effusion seen on CXR with 
normal O2 sat throughout the day ___ though requiring oxygen 
overnight on admission. Patient's wife would like evaluation for 
home O2 for patient which Dr. ___ is actively working on at 
this time. Continued on home lasix while inpatient. 

# Gout: Continued on home allopurinol.
  
# Hypothyroidism: Patient continued on home levothyroxine.  
 
# Anemia: Receives epogen as an outpatient. Anemia likely 
related to CKD. HCT stable this admission.    

# CODE: Full (per patient) 
========
Transitional Issues:
-Consider aspirin, statin in future given known systolic CHF
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Allopurinol 50 mg PO DAILY 
2. Nephrocaps 1 CAP PO DAILY 
3. Cinacalcet Dose is Unknown  PO Frequency is Unknown 
4. Clotrimazole Cream 1 Appl TP BID 
5. Finasteride 5 mg PO DAILY 
6. Furosemide 80 mg PO DAILY ON NON-DIALYSIS DAYS 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Pantoprazole 40 mg PO Q12H 
9. Propranolol LA 80 mg PO DAILY 
10. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
11. Sucralfate 1 gm PO TID 
12. Warfarin 1 mg PO DAILY16 
13. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
14. DiphenhydrAMINE 25 mg PO HS:PRN UNKNOWN 
15. Docusate Sodium 100 mg PO BID 
16. Polyethylene Glycol Dose is Unknown  PO Frequency is Unknown 


 
Discharge Medications:
1. Allopurinol 50 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Finasteride 5 mg PO DAILY 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Nephrocaps 1 CAP PO DAILY 
6. Pantoprazole 40 mg PO Q12H 
7. Propranolol LA 80 mg PO DAILY 
8. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
9. Sucralfate 1 gm PO TID 
10. Warfarin 1 mg PO DAILY16 
11. Cinacalcet 0 mg PO PER HOME REGIMEN 
12. Clotrimazole Cream 1 Appl TP BID 
13. DiphenhydrAMINE 25 mg PO HS:PRN UNKNOWN 
14. Furosemide 80 mg PO DAILY ON NON-DIALYSIS DAYS 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
16. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
17. Propranolol 20 mg PO QID:PRN rapid heart rate 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
1. Atrial flutter/atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent with intermittent 
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after an episode of fast heart 
rate (tachycardia) and low blood pressure (hypotension) at 
dialysis. You were treated with fluid and a medication called 
propranolol and your heart rate and blood pressure improved. You 
were dialyzed on ___ which you tolerated well. We are 
discharging you with an additional prescription for short acting 
propranolol which you can take if you need it for heart rate 
control.

Please go to dialysis as planned on ___ to resume your regular 
___ schedule.

Please weigh yourself every morning, call MD if weight goes up 
more than 3 lbs.

It was a pleasure taking care of you!
Your ___ Team
 
Followup Instructions:
___